### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): more about two-reachability

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean [hunk 1]
```diff
@@ -79,6 +79,9 @@ theorem deleteEdges_eq_inter_edgeSet (s : Set (Sym2 V)) :
   ext
   simp +contextual [imp_false]
 
+@[simp] lemma deleteEdges_of_forall_isDiag (G : SimpleGraph V) (hs : ∀ e ∈ s, e.IsDiag) :
+    G.deleteEdges s = G := by ext u v; simpa using fun huv h ↦ huv.ne <| hs _ h
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean]: I know you're not a fan but `diagSet` seems to fit the hypothesis pretty well:
```suggestion
@[simp] lemma deleteEdges_of_subset_diagSet (G : SimpleGraph V) (hs : s ⊆ Sym2.diagSet) :
    G.deleteEdges s = G := by ext u v; simpa using (·.ne <| Sym2.mem_diagSet_iff_eq.mp <| hs ·)
```
The current proof (just without the underscore) will also work after your #32679 is merged

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean]: Sure

File: Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean [hunk 2]
```diff
@@ -61,7 +61,8 @@ instance [DecidableRel G.Adj] [DecidablePred (· ∈ s)] [DecidableEq V] :
 theorem deleteEdges_deleteEdges (s s' : Set (Sym2 V)) :
     (G.deleteEdges s).deleteEdges s' = G.deleteEdges (s ∪ s') := by simp [deleteEdges, sdiff_sdiff]
 
-@[simp] lemma deleteEdges_empty : G.deleteEdges ∅ = G := by simp [deleteEdges]
+-- `deleteEdges_of_subset_diagSet` already proves it
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/DeleteEdges.lean]:
```suggestion
-- This is not marked `simp` since `deleteEdges_of_subset_diagSet` already proves it
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 3]
```diff
@@ -68,43 +68,32 @@ lemma isEdgeReachable_one : G.IsEdgeReachable 1 u v ↔ G.Reachable u v := by
...
-  refine ⟨fun h e u v ↦ ?_, fun h u v ↦ isEdgeReachable_add_one.mpr ⟨?_, fun e _ ↦ h e u v⟩⟩
-  · by_cases he : e ∈ G.edgeSet
-    · exact (isEdgeReachable_add_one.mp <| h u v).right e he
-    · rw [G.deleteEdges_eq_self.mpr <| Set.disjoint_singleton_right.mpr he]
-      exact h u v |>.anti <| k.le_succ
-  · refine isEdgeReachable_one.mp ?_ |>.mono <| G.deleteEdges_le {s(u, v)}
-    exact h _ u v |>.anti <| k.one_le_iff_ne_zero.mpr hk
-
-/-- A graph is 2-edge-connected iff it is preconnected and has no bridges. -/
-lemma isEdgeConnected_two : G.IsEdgeConnected 2 ↔ G.Preconnected ∧ ∀ e, ¬G.IsBridge e := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:104]: Have we lost lemmas with this right-hand-side? It looks pretty useful to me!

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:104]: Why so? After the bridge refactor (#31690), there will be no difference between `¬G.IsBridge e` and `(G.deleteEdges {e}).Preconnected`, and therefore the new `isEdgeConnected_two` below will be strictly more useful to prove that a graph is 2-edge connected. Note that we now have a dedicated lemma for the implication `G.IsEdgeConnected 2 -> G.Preconnected`.

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:104]: For convenience! Your new lemma is certainly useful, but the statement "2-edge-connected iff preconnected and has no bridges" is useful to have explicitly too, in particular avoids rewriting bridge into something longer. I'm not sure how the new one is "strictly" more useful, but more importantly this extra lemma is super helpful for discoverability.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:104]: My point is that the bridge refactor will make my new `isEdgeConnected_two` be `G.IsEdgeConnected 2 ↔ ∀ e, ¬G.IsBridge e`, which is simpler than the current one. The extra complexity is only transitional

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:104]: Alright, can you leave a comment saying that after the refactor, the statement should be synt-eq to what you say? My worry is that the refactor will keep the statement literally as-is.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:104]: In other words, the new one is strictly more useful in the same sense that `Foo ↔ Baz` is strictly more useful than `Foo ↔ Bar ∧ Baz` when `Foo → Bar`

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:104]: > In other words, the new one is strictly more useful in the same sense that `Foo ↔ Baz` is strictly more useful than `Foo ↔ Bar ∧ Baz` when `Foo → Bar`

Sure, my objection is instead that we're changing `Foo ↔ Bar ∧ Baz` to `Foo ↔ Baaaz`, where the docstring of the new one mentions `Baz` and not `Baaaz`, and the two are not syntactically equal.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 4]
```diff
@@ -25,7 +25,7 @@ This file defines k-edge-connectivity for simple graphs.
 
 namespace SimpleGraph
 
-variable {V : Type*} {G H : SimpleGraph V} {k l : ℕ} {u v w : V}
+variable {V : Type*} {G H : SimpleGraph V} {k l : ℕ} {u v w x y : V}
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Nit: I think you don't actually use `x` anywhere and only `y` gets used once, perhaps the `y` can be renamed `x`.

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+
